US08293735B2
To a solution of 2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester hydrochloride (100 mg, 0.381 mmol) in DCE (10 mL) was added an aqueous solution of formaldehyde (37% w/w, 40 μL, 0.537 mmol). The mixture was stirred at RT for 10 min, then sodium triacetoxyborohydride (121 mg, 0.571 mmol) was added and stirring was continued for 1 h. Water was added to the reaction mixture before being loaded onto an Isolute® SCX-2 cartridge. The cartridge was washed with MeOH then eluted with 2 M NH3 in MeOH to give 7-methyl-2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester. To a solution of 7-methyl-2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester in DCM (5 mL) was added TFA (1 mL) and the resulting mixture was stirred at RT for 1 h. The reaction mixture was loaded onto an Isolute® SCX-2 cartridge, washed with MeOH then eluted with 2 M NH3 in MeOH to give the title compound as a colourless oil (45 mg, 84%).

reactant | 2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester hydrochloride | 0.381 mmol, 100 mg | Cl.C(C)(C)(C)OC(=O)N1CC2(C1)CCNCC2
reactant | formaldehyde | 0.537 mmol, 40 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.571 mmol, 121 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | O | H2O
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 7-methyl-2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(C1)CCN(CC2)C | C13H24N2O2
